US08314100B2
1-[(6,7-Difluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine (Compound 172)
Ethyl N-(6,7-di fluoro-2-methoxyquinoxalin-3-yl)carbamate and 1-(3,5-dimethyl phenyl)piperazine were reacted by the same way with the example 169 to obtain the titled compound (yield, 70%). 1H NMR (300 MHz, CDCl3) δ 2.30 (s, 6H), 3.26-3.28 (m, 4H), 3.74-3.76 (m, 4H), 4.15 (s, 3H), 6.59 (s, 3H), 7.29 (s, 1H), 7.49-7.53 (m, 1H), 7.52-7.62 (m, 1H).

reactant | Ethyl N-(6,7-di fluoro-2-methoxyquinoxalin-3-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1F)OC)NC(OCC)=O | C12H11F2N3O3
reactant | 1-(3,5-dimethyl phenyl)piperazine | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
product | 1-[(6,7-Difluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine | 70% | FC=1C=C2N=C(C(=NC2=CC1F)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C)C | C22H23F2N5O2
